US05359091
(E)-N-(3-Chloro-2-propenyl)propylamine hydrochloride
To 19.7 ml (0.24 mol) of n-propylamine was added 1.82 ml (20 mmol) of 1,3-dichloropropene (E/Z=9/1) under ice cooling. The mixture was stirred for 3 hours at the same temperature, and concentrated under reduced pressure to remove n-propylamine. The residue was treated with 50 ml of ethyl acetate and precipitated n-propylamine hydrochloride was filtered and washed with 10 ml of ethyl acetate. The filtrate and washing were combined, washed with 20 ml of saturated sodium hydrogen carbonate aqueous solution and 20 ml of water and 20 ml of saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The yellow residual oil was dissolved in 4 ml of 23% hydrogen chloride methanol solution. The solvent and excess hydrogen chloride were distilled off under reduced pressure. The resulting crystals were suspended in 8 ml of diisopropyl ether, filtered, washed with 1 ml×2 of diisopropyl ether and then dried to obtain 2.38 g (yield: 70%) of the above identified compound as slightly yellowish brown crystalline powder.

reactant | n-propylamine | 0.24 mol, 19.7 ml | C(CC)N | C3H9N
reactant | 1,3-dichloropropene | 20 mmol, 1.82 ml | ClC=CCCl | C3H4Cl2
product | (E)-N-(3-Chloro-2-propenyl)propylamine hydrochloride | yield: 70% | Cl.Cl/C=C/CNCCC | InChI=1S/C6H12ClN.ClH/c1-2-5-8-6-3-4-7;/h3-4,8H,2,5-6H2,1H3;1H/b4-3+;
